US06162808
i) N-[2-[1,1-Dimethylethoxycarbonylamino]thiazol-4-yl]acetyl-L-aspartic acid, dimethyl ester
The subtitle compound was prepared from 2-[1,1-dimethylethoxycarbonylamino]thiazol-4-ylacetic acid (Chem. Pharm. Bull. 1993, 41, 758) (1.0 g) and L-aspartic acid dimethyl ester (1.15 g) according to the method of example 10 step (i). Yield 1.36 g. Used directly in the next step.

reactant | 2-[1,1-dimethylethoxycarbonylamino]thiazol-4-ylacetic acid | 1.0 g | CC(C)(OC(=O)NC=1SC=C(N1)CC(=O)O)C | C10H14N2O4S
reactant | L-aspartic acid dimethyl ester | 1.15 g | COC([C@@H](N)CC(=O)OC)=O | C6H11NO4
product | N-[2-[1,1-Dimethylethoxycarbonylamino]thiazol-4-yl]acetyl-L-aspartic acid, dimethyl ester | CC(C)(OC(=O)NC=1SC=C(N1)CC(=O)N[C@@H](CC(=O)OC)C(=O)OC)C | C16H23N3O7S
